US07157448B2
Synthesis of 1-({[t-butyl(diphenyl)silyl]oxy}methyl)-2-methylcyclopropanol
According to the description in a reference (see: Syn. Lett. 07, 1053–1054, 1999), the title compound was prepared as follows. 50 g (146 mmole) of ethyl 2-{[t-butyl(diphenyl)silyl]oxy}acetate was dissolved in 700 ml of tetrahydrofuran (THF) and 30.0 ml of titaniumtetraisopropoxide was added thereto. To the mixture was slowly added 290 ml of propylmagnesiumchloride (2.0M in THF) at −10° C., and the reaction solution was stirred for 12 hours at room temperature. 200 ml of saturated ammonium chloride was added to stop the reaction. The tetrahydrofuran (THF) used as a solvent was removed by distillation under reduced pressure, and the reaction mixture was extracted twice with 2000 ml of n-hexane. The n-hexane extract was distilled under reduced pressure and purified by silica gel column to give 42 g of the title compound.

reactant | ethyl 2-{[t-butyl(diphenyl)silyl]oxy}acetate | 146 mmole, 50 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(=O)OCC | C20H26O3Si
reactant | propylmagnesiumchloride | 2.0M, 290 ml | C(CC)[Mg]Cl
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
catalyst | titaniumtetraisopropoxide | 30.0 ml | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | 1-({[t-butyl(diphenyl)silyl]oxy}methyl)-2-methylcyclopropanol | 42 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1(C(C1)C)O | C21H28O2Si
